US05859011
Dimethyl 4-(2,6-dichlorophenyl)-6-methyl-2-piperazinylcarbonylmethyl-1,4-dihydro-pyridine-3,5-dicarboxylate
A mixture of dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate(13.9 g, 30 mmol) , piperazine(39.2 g, 460 mmol), and dimethylformamide(30 ml) was heated to 100° C. (becomes a solution) and stirred for 1.5 h (longer reaction times result in decomposition). The reaction mixture was cooled briefly, poured into water(800 ml), and extracted with ethyl acetate. The extract was washed thoroughly with water, dried over sodium sulfate, and concentrated to give 12.2 g (84%) of an orange color oil, suitable for use in succeeding steps. It can be purified by column chromatography on silica gel using dichloromethane/methanol: 2/1 as eluent.

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-methoxycarbonylmethyl-6-methyl-1,4-dihydropyridine-3,5-dicarboxylate | 30 mmol, 13.9 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)C)CC(=O)OC)C(=O)OC | C19H19Cl2NO6
reactant | piperazine | 460 mmol, 39.2 g | N1CCNCC1 | C4H10N2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 800 ml | O | H2O
product | Dimethyl 4-(2,6-dichlorophenyl)-6-methyl-2-piperazinylcarbonylmethyl-1,4-dihydro-pyridine-3,5-dicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)C)CC(=O)N1CCNCC1)C(=O)OC | C22H25Cl2N3O5
